US08536217B2
50 g (259 mmol) 3-nitro-phtalic anhydride and 24.7 g (24.1 mL, 266 mmol) aniline in 710 mL acetic acid were heated to reflux for 3 hours under an argon atmosphere. Acetic acid was removed under reduced pressure and the residue was treated with 150 mL ethanol at 0° C. The precipitated 3-nitro-phtalanilide was isolated by filtration, washed with a small amount of cold ethanol and dried. 59.1 g (58%) 3-nitro-phtalanilide was isolated (m.p. 139-141° C.)

reactant | 3-nitro-phtalic anhydride | 259 mmol, 50 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | aniline | 266 mmol, 24.1 mL, 24.7 g | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | 710 mL | C(C)(=O)O | C2H4O2
product | 3-nitro-phtalanilide | [N+](=O)([O-])C1=C(C(C(=O)NC2=CC=CC=C2)=CC=C1)C(=O)NC1=CC=CC=C1 | C20H15N3O4
